US05849759
2-Methyl-5,6-dihydroxybenzimidazole (100 g) in THF (1 L) was basified to pH 8 with aqueous NaHCO3, and to the resulting solution was then added di-tert-butyldicarbonate (104 g). After stirring for 3 hours, the THF was removed, and the aqueous residue was diluted and extracted with ethyl acetate. The organic layer was dried and concentrated to afford 1-tert-butoxycarbonyl-2-methyl-5,6-dihydroxybenzimidazole as a white solid.

reactant | 2-Methyl-5,6-dihydroxybenzimidazole | 100 g | CC=1NC2=C(N1)C=C(C(=C2)O)O | C8H8N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyldicarbonate | 104 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-2-methyl-5,6-dihydroxybenzimidazole | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=C(C(=C2)O)O)C | C13H16N2O4
